US07915300B2
4-[1-(5-Bromo-thiophen-2-yl)-ethyl]-morpholine
To a solution of morpholine (1.20 mmol) in titanium (IV) isopropoxide (1.95 mmol) was added 2-acetyl-5-bromothiophene (1.20 mmol). The reaction was heated in a microwave at 150° C. for 5 minutes. Sodium borohydride (1.95 mmol) was added and the reaction stirred at RT for 16 h. The reaction was diluted with sodium hydroxide solution (2N, 10 ml) and the solids formed removed by filtration. The filtrate was extracted with ethylacetate (3×20 ml), the combined organics were washed with brine and dried over magnesium sulphate. The product was purified by flash chromatography (silica gel, 10-20% ethylacetate in iso-hexane) to, give the title product as a brown oil: m/z=276 (100%, M+H), 278 (100%, M+H) in MS ES+.

reactant | morpholine | 1.20 mmol | N1CCOCC1 | C4H9NO
reactant | 2-acetyl-5-bromothiophene | 1.20 mmol | C(C)(=O)C=1SC(=CC1)Br | C6H5BrOS
reactant | Sodium borohydride | 1.95 mmol | [BH4-].[Na+]
solvent | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
catalyst | titanium (IV) isopropoxide | 1.95 mmol | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-[1-(5-Bromo-thiophen-2-yl)-ethyl]-morpholine | BrC1=CC=C(S1)C(C)N1CCOCC1 | C10H14BrNOS
